US05484786
The methyloxymethoxy group was removed by treatment of 4-[(3-methyloxymethoxyphenyl)oxomethyl]tetrahydropyran (0.82 g, 3.27 mmol), prepared as in step 2 with concentrated hydrochloric acid (2.45 mL, 0.75 mL/mmol) in THF (13 mL) at ambient temperature for 0.5 hours. The reaction mixture was partitioned between water and ethyl acetate and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium bicarbonate and brine, dried over MgSO4, filtered, and concentrated in vacuo to provide 4-[(3-hydroxyphenyl)oxomethyl]tetrahydropyran as a brown solid (0.65 g, 96%) which was used without further purification.

reactant | 4-[(3-methyloxymethoxyphenyl)oxomethyl]tetrahydropyran | 3.27 mmol, 0.82 g | COCOC=1C=C(C=CC1)C(C1CCOCC1)=O | C14H18O4
reactant | hydrochloric acid | 2.45 mL | Cl | ClH
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 4-[(3-hydroxyphenyl)oxomethyl]tetrahydropyran | 0.65 g, 96% | OC=1C=C(C=CC1)C(C1CCOCC1)=O | C12H14O3
